US04762844
4. Methyl 3-amino-2-chloro-5-fluoro-4-methyl-benzoate
12 g of 3-amino-2-chloro-5-fluoro-4-methylbenzoic acid are initially introduced into 60 ml of MeOH. HCl gas is passed in for 20 minutes and is then boiled under reflux for 5 hours. Thereafter, the mixture is poured into water and rendered alkaline with sodium carbonate and the product is isolated. Yield: 8 g, melting point: 51°-52°.

reactant | 3-amino-2-chloro-5-fluoro-4-methylbenzoic acid | 12 g | NC=1C(=C(C(=O)O)C=C(C1C)F)Cl | C8H7ClFNO2
reactant | MeOH | 60 ml | CO | CH4O
reactant | HCl | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | Methyl 3-amino-2-chloro-5-fluoro-4-methyl-benzoate | NC=1C(=C(C(=O)OC)C=C(C1C)F)Cl | C9H9ClFNO2
